US09062070B2
A mixture of 5-bromo-4-ethyl-2-benzofuran-1(3H)-one (1.81 g, 7.51 mmol), potassium vinyltrifluoroborate (1.21 g, 9.01 mmol) and Pd(dppf)Cl2 (200 mg) in 20 mL of TEA and 20 mL of EtOH was heated to reflux under N2 overnight and then concentrated. The resulting material was purified by column chromatography to give 4-ethyl-5-vinyl-2-benzofuran-1(3H)-one.

reactant | 5-bromo-4-ethyl-2-benzofuran-1(3H)-one | 7.51 mmol, 1.81 g | BrC1=C(C2=C(C(OC2)=O)C=C1)CC | C10H9BrO2
reactant | potassium vinyltrifluoroborate | 9.01 mmol, 1.21 g | C(=C)[B-](F)(F)F.[K+]
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd(dppf)Cl2 | 200 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-ethyl-5-vinyl-2-benzofuran-1(3H)-one | C(C)C1=C(C=CC=2C(OCC21)=O)C=C | C12H12O2
